US03966760
A. 6-Nitroveratrylidene-2-aminothiazole
To a heated solution of 6-nitroveratraldehyde (84 g, 0.4 mole), 500 ml of toluene, and 1 ml of acetic acid was added a suspension of 2-aminothiazole (50 g, 0.44 mole) and 250 ml of toluene. The material was refluxed until 7 ml of water was collected using a Dean-Stark apparatus. The solid was removed and the filtrate was concentrated leaving a light solid which was recrystallized from benzene to yield 84 g (71%) of the product, m.p. 125°-130°.

reactant | 6-nitroveratraldehyde | 0.4 mole, 84 g | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
reactant | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | 2-aminothiazole | 0.44 mole, 50 g | NC=1SC=CN1 | C3H4N2S
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 7 ml | O | H2O
product | 6-Nitroveratrylidene-2-aminothiazole | 84 g, 71% | [N+](=O)([O-])C1=CC(=C(C=C1C=S1C(=NC=C1)N)OC)OC | C12H13N3O4S
